US08236826B2
Production of methyl 3-(4-benzyloxyphenylamino)-propionate
Under nitrogen, 4-benzyloxyaniline (13.0 g, 65 mmol) was dissolved by heating at 70° C., and a boron trifluoride-diethyl ether complex (0.82 mL, 6.5 mmol) was added dropwise at the same temperature to the dissolved solution. Methyl acrylate (5.85 mL, 65 mmol) was then slowly added dropwise to the resulting solution. This solution was stirred for 10 hours at 70° C. After cooling with ice, ethyl acetate was added to the reaction mixture and washed with aqueous 1 N sodium hydroxide and brine. The organic layer was dried over anhydrous magnesium sulfate, evaporated, and the residue was purified by silica gel column chromatography (n-hexane:ethyl acetate=5:1), to thereby yield 17.5 g of the title compound.

reactant | 4-benzyloxyaniline | 65 mmol, 13.0 g | C(C1=CC=CC=C1)OC1=CC=C(N)C=C1 | C13H13NO
reactant | Methyl acrylate | 65 mmol, 5.85 mL | C(C=C)(=O)OC | C4H6O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | methyl 3-(4-benzyloxyphenylamino)-propionate | C(C1=CC=CC=C1)OC1=CC=C(C=C1)NCCC(=O)OC | C17H19NO3
